US04394156
(a) 1-(3'-Nitro-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone
A solution of 10.1 g (0.05 mol) 5-chloro-3-methoxycarbonyl-2-methyl-4-pyranone, 8.5 g 2,4-dimethyl-5-nitroaniline and 0.1 g p-toluenesulfonic acid monohydrate in 100 ml of toluene are refluxed for 8 h in a water separator apparatus. The mixture is allowed to cool and the precipitating product is filtered off, washed with a small amount of ethylacetate/petrolether and dried. Yield: 15.0 g (85.5%) 1-(3'-nitro-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone, mp. 266° C.

reactant | 5-chloro-3-methoxycarbonyl-2-methyl-4-pyranone | 0.05 mol, 10.1 g | ClC=1C(C(=C(OC1)C)C(=O)OC)=O | C8H7ClO4
reactant | 2,4-dimethyl-5-nitroaniline | 8.5 g | CC1=C(N)C=C(C(=C1)C)[N+](=O)[O-] | C8H10N2O2
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3'-Nitro-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone | [N+](=O)([O-])C=1C=C(C(=CC1C)C)N1C(=C(C(C(=C1)Cl)=O)C(=O)OC)C | C16H15ClN2O5
